US03950353
N-(2-Dimethylaminoethyl)-N'-[2-(3-pyrazolylmethylamino)ethyl]-thiourea
Treating N-(3-pyrazolylmethyl)ethylenediamine with 2-dimethylaminoethyl isothiocyanate by the procedure of Example 40 gives the title compound.

reactant | N-(3-pyrazolylmethyl)ethylenediamine | N1N=C(C=C1)CNCCN | C6H12N4
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(3-pyrazolylmethylamino)ethyl]-thiourea | CN(CCNC(=S)NCCNCC1=NNC=C1)C | C11H22N6S
